US07947727B2
2-Chloro-N-ethyl-6-methyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide
Prepared similarly to Example 48 by reaction of 2-chloro-6-methylbenzoylchloride and 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol in chloroform over 42 hours. Purification by mass directed autopreparation (System B) resulted in separation of atropisomers of the title compound:

reactant | 2-chloro-6-methylbenzoylchloride | ClC1=C(C(=O)Cl)C(=CC=C1)C | C8H6Cl2O
reactant | 1,1,1-trifluoro-3-{[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}-2-[(propylamino)methyl]-2-propanol | FC(C(CNC1=C2C=NN(C2=CC=C1)C1=CC=C(C=C1)F)(O)CNCCC)(F)F | C20H22F4N4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloro-N-ethyl-6-methyl-N-[3,3,3-trifluoro-2-({[1-(4-fluorophenyl)-1H-indazol-4-yl]amino}methyl)-2-hydroxypropyl]benzamide | ClC1=C(C(=O)N(CC(C(F)(F)F)(O)CNC2=C3C=NN(C3=CC=C2)C2=CC=C(C=C2)F)CC)C(=CC=C1)C | C27H25ClF4N4O2
